US07704996B2
Step 74.5: 2-Cyano-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid
To a solution of a 2-cyano-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid allyl ester (0.096 mmol) in THF (1.0 mL) are added Pd(PPh3)4 (tetrakis(triphenylphosphine)palladium) (0.0096 mmol) and morpholine (0.19 mmol) at room temperature. The reaction mixture is stirred at room temperature for 0.5 h and the reaction is quenched by the addition of sat. aq. NaHCO3. The mixture is extracted with ether. The aqueous layer is acidified to pH 2 with sat. aq. KHSO4. The mixture is extracted with AcOEt. The organic extracts are washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to give the crude titled compound.

reactant | 2-cyano-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid allyl ester | 0.096 mmol | C(C=C)OC(=O)C=1C(=NC(=NC1)C#N)OCC1CCC2(CC2)CC1 | C18H21N3O3
reactant | morpholine | 0.19 mmol | N1CCOCC1 | C4H9NO
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.0096 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Cyano-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid | C(#N)C1=NC=C(C(=N1)OCC1CCC2(CC2)CC1)C(=O)O | C15H17N3O3
